US07872033B2
5-chloro-2-(2,2,2-trifluoroethoxy)benzoic acid
Commercially available, methyl 5-chloro-2-hydroxybenzoate (Maybridge), potassium carbonate, 2,2,2-trifluoroethyl trifluoromethanesulfonate (TCI) and sodium hydroxide were processed according to the method of Example 130A to obtain the title compound. MS (ESI+) m/z 253 (M−H)+.

reactant | methyl 5-chloro-2-hydroxybenzoate | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-chloro-2-(2,2,2-trifluoroethoxy)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C9H6ClF3O3
